US09079889B2
1,4-Dioxaspiro[4.5]decan-8-one (1.0 equiv) was dissolved in Ether (0.1M) and stirred at −15° C. then 1M NaHMDS (1.05 equiv.) was added and stirred for 70 min then Tf2O (1.05 equiv.) added and reaction allowed to slowly warm to rt. The mixture was stirred for 28 hr, washed with sat. aq. NaHCO3 and then water. Aqueous layers combined and extracted with ether. Organic layers combined, dried over MgSO4, filtered, and concentrated. The residue was purified by column (ethyl ether:hexanes=1:4) to give 1,4-dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate (65%). LC/MS (m/z): MH+=289.0, Rt=0.97. HPLC Rt=3.77.

reactant | 1,4-Dioxaspiro[4.5]decan-8-one | 1.0 equiv | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | NaHMDS | 1M, 1.05 equiv. | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Tf2O | 1.05 equiv. | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | Ether | 0.1M | CCOCC | C4H10O
product | 1,4-dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate | 65% | FC(S(=O)(=O)OC1=CCC2(OCCO2)CC1)(F)F | C9H11F3O5S
